US08003649B2
A stirred solution of 6-chloro-3-(difluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (103 mg, 0.5 mmol), (R)-1-[1-(4-fluorophenyl)ethyl]piperazine (125 mg, 0.6 mmol) (prepared as described in J. Med. Chem. 2007, 50, 3528) and DIPEA (97 mg, 0.75 mmol, 129 μl) in DMF (2 mL) was heated at 100° C. for 2 hours. The crude product was purified by preparative HPLC (Waters XBridge Prep C18 OBD column, 5μ silica, 19 mm diameter, 100 mm length), using decreasingly polar mixtures of water (containing 1% ammonia) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford 3-(difluoromethyl)-6-[4-[(1R)-1-(4-fluorophenyl)ethyl]piperazin-1-yl][1,2,4]triazolo[4,3-b]pyridazine (158 mg, 84%) as a crisp foam.

reactant | 6-chloro-3-(difluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 0.5 mmol, 103 mg | ClC=1C=CC=2N(N1)C(=NN2)C(F)F | C6H3ClF2N4
reactant | (R)-1-[1-(4-fluorophenyl)ethyl]piperazine | 0.6 mmol, 125 mg | FC1=CC=C(C=C1)[C@@H](C)N1CCNCC1 | C12H17FN2
reactant | DIPEA | 0.75 mmol, 129 μl, 97 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-(difluoromethyl)-6-[4-[(1R)-1-(4-fluorophenyl)ethyl]piperazin-1-yl][1,2,4]triazolo[4,3-b]pyridazine | 158 mg, 84% | FC(C1=NN=C2N1N=C(C=C2)N2CCN(CC2)[C@H](C)C2=CC=C(C=C2)F)F | C18H19F3N6
